US05296616
In 20 ml of tetrahydrofuran was dissolved 8.0 g (21 mmol) of the acetal compound as obtained by the aforementioned reaction. To the resultant solution was added 10 ml of a solution of tetra-n-butylammonium fluoride in tetrahydrofuran in 1.0 mol/liter concentration to proceed with reaction at 0° C. for one hour and at room temperature for further 40 hours. The reaction was stopped by the addition of distilled water, and the reaction product was extracted with diethyl ether. Then the extract was washed with brine and dried with magnesium sulfate anhydride. After the diethyl ether was vacuum distilled away, the resultant reaction product was purified by separation by means of silica-gel column chromatography to give the objective compounds comprising 3.0 g (11 mmol) of (2R, 5S, 6S)-tetrahydro-6-trifluoromethyl-2-hexyloxy-5-hydroxypyran and 2.3 g (8 mmol) of (2S, 5S, 6S)-tetrahydro-6-trifulromethyl-2-hexyloxy-5-hydroxypyran.

reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2R, 5S, 6S)-tetrahydro-6-trifluoromethyl-2-hexyloxy-5-hydroxypyran | 11 mmol, 3.0 g | FC([C@@H]1[C@H](CC[C@@H](O1)OCCCCCC)O)(F)F | C12H21F3O3
